US08017631B2
5-(5-Nitro-furan-2-yl)-3-phenyl-[1,2,4]oxadiazole (Compound 4.1)
N-Hydroxy-benzamidine (0.3 g; 2.1 mmol) was dissolved in 10 ml of dry pyridine and added 0.5 g of 5-nitro-furan-2-carbonyl chloride (2.8 mmol). The reaction mixture was heated at reflux for 3 hours, cooled to room temperature and poured into 50 ml of ice/water, the product precipitated out of solution and was isolated by filtration. Yield 0.3 g (41%) of yellow solid. Mp. 164-166° C.

reactant | N-Hydroxy-benzamidine | 2.1 mmol, 0.3 g | ONC(C1=CC=CC=C1)=N | C7H8N2O
reactant | 5-nitro-furan-2-carbonyl chloride | 2.8 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)Cl | C5H2ClNO4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(5-Nitro-furan-2-yl)-3-phenyl-[1,2,4]oxadiazole | [N+](=O)([O-])C1=CC=C(O1)C1=NC(=NO1)C1=CC=CC=C1 | C12H7N3O4
